* source INA157
V_V1         N14290150 0 15
R_RL         0 VOUT  20k  
V_VIN         VIN N14296625 DC 0 AC 1 0
V_V2         0 N14295340 15
V_Vref         N14295987 0 0
X_U1         N14296625 VIN N14290150 N14295340 VOUT N14295987 VOUT INA157
