* source INA821 TEST CIRCUIT
V_Vcc         N11906 0 15Vdc
R_RL         0 OUT  10k TC=0,0 
R_RG         N12280 N12274  1T TC=0,0 
V_VIN         N12170 0  AC 1
+SIN 0 100m 1k 0 0 0
V_Vee         N12296 0 -15Vdc
E_E1         N12164 0 N12170 0 0.5
C_CL         0 OUT  15p  TC=0,0 
E_E2         0 N12256 N12170 0 0.5
X_U1         N12164 N12256 N11906 N12296 OUT 0 N12274 N12280 INA821 
